US07935707B2
A) 4-((R)-2-Hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 5.98 g (30.0 mmol) of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester and 3.55 ml=3.64 g (36.0 mmol) of (R)-(−)-pyrrolidin-2-yl-methanol in 60.0 ml of EtOH was treated with 60.0 ml of 1,2-dichloroethane, followed by 4.50 ml (36 mmol) of borane-pyridine complex (8 molar). Then, 4.46 ml=4.68 g (78.0 mmol) of acetic acid was added to this solution. After stirring at RT for 16 hours, the reaction mixture was poured into crashed ice; then, the pH was adjusted to 9-10 with sodium carbonate solution and the mixture was extracted twice with EtOAc; the combined organic phases were washed with water, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 8:2) to give 7.69 g (90%) of the title compound as light yellow oil. MS: 285.1 (MH+).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 30.0 mmol, 5.98 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | (R)-(−)-pyrrolidin-2-yl-methanol | 36.0 mmol, 3.64 g | N1[C@H](CCC1)CO | C5H11NO
reactant | acetic acid | 78.0 mmol, 4.68 g | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 60.0 ml | CCO | C2H6O
solvent | 1,2-dichloroethane | 60.0 ml | ClCCCl | C2H4Cl2
product | 4-((R)-2-Hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 7.69 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@H](CCC1)CO | C15H28N2O3
